US04792562
N-(4-Pyridinyl)-N-(1H-pyrrol-1-yl)propanamide
To a solution containing 2.9 g of N-(1H-pyrrol-1-yl)-4-pyridinamine and 5 g of sodium bicarbonate in 100 ml of dichloromethane was added a solution containing 1.9 g of propionyl chloride in 20 ml of dichloromethane.

reactant | N-(1H-pyrrol-1-yl)-4-pyridinamine | 2.9 g | N1(C=CC=C1)NC1=CC=NC=C1 | C9H9N3
reactant | sodium bicarbonate | 5 g | C([O-])(O)=O.[Na+]
reactant | propionyl chloride | 1.9 g | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(4-Pyridinyl)-N-(1H-pyrrol-1-yl)propanamide | N1=CC=C(C=C1)N(C(CC)=O)N1C=CC=C1 | C12H13N3O
